US05723614
1 g of 5-(4-tert-butoxycarbonyl-1-piperazinyl)-benzofuran-2-carboxamide is dissolved in 50 ml of methanolic HCl and stirred for I hour. After customary working up, 5-(1-piperazinyl)benzofuran-2-carboxamide, m.p. 252°-255°, is obtained.

reactant | 5-(4-tert-butoxycarbonyl-1-piperazinyl)-benzofuran-2-carboxamide | 1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C18H23N3O4
solvent | HCl | 50 ml | Cl | ClH
product | 5-(1-piperazinyl)benzofuran-2-carboxamide | N1(CCNCC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C13H15N3O2
